US07279470B2
Methyl-phenyl-carbamic acid 5-[(pyridine-2-carbonyl)-amino]-pyridin-2-yl ester
A solution of pyridine-2-carboxylic acid (6-hydroxy-pyridin-3-yl)-amide hydrochloride (0.50 g, 1.99 mmol), N-methyl-N-phenylcarbamoyl chloride (0.44 g, 2.59 mmol) and 1,4-diazabicyclo[2,2,2]octane (0.54 g, 4.81 mmol) in dimethylformamide (15 mL) was stirred at room temperature for 1 hour. Water was added and the solids were isolated by suction, redissolved in dichloromethane. The solution was dried over sodium sulphate, filtered and evaporated in vacuo. The residue was purified by flash column chromatography (SiO2, ethyl acetate:heptane 50:50) yielding the title compound (0.38 g, 55% yield) as a white solid.

reactant | pyridine-2-carboxylic acid (6-hydroxy-pyridin-3-yl)-amide hydrochloride | 1.99 mmol, 0.50 g | Cl.OC1=CC=C(C=N1)NC(=O)C1=NC=CC=C1
reactant | N-methyl-N-phenylcarbamoyl chloride | 2.59 mmol, 0.44 g | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
reactant | 1,4-diazabicyclo[2,2,2]octane | 4.81 mmol, 0.54 g | N12CCN(CC1)CC2 | C6H12N2
reactant | Water | O | H2O
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | Methyl-phenyl-carbamic acid 5-[(pyridine-2-carbonyl)-amino]-pyridin-2-yl ester | 0.38 g, 55% yield | N1=C(C=CC=C1)C(=O)NC=1C=CC(=NC1)OC(N(C1=CC=CC=C1)C)=O | C19H16N4O3
